Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Iodine-Iodine Containing
 
Attending: ___.
 
Chief Complaint:
difficulty with swallowing
painful swallowing
diarrhea
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ female with history of stage
IIIA squamous cell carcinoma of lung undergoing chemoradiation
completed at end of ___, multiple strokes, hypertension,
hyperlipidemia, DMII, and prior colon cancer s/p hemicolectomy
who presents with throat pain and difficulty swallowing.

She was recently seen in the ED on ___ after a fall with head
strike. Imaging was negative and she was discharged home. K was
noted to be 3.2 so she was called back to the ED. Her K was
repleted and she was discharged home. Since then she has had
significant odynophagia with difficulty swallowing leading to
poor appetite, weakness, poor PO intake, and continued weight
loss. She has also been having diarrhea that is occasionally
bloody. She also notes persistent dry cough. She called her
Oncologist who recommended she present to the ED for further
evaluation.

On arrival to the ED, initial vitals were 96.8 84 ___ 18 100%
RA. Exam was notable for fatigued-appearing woman. Labs were
notable for WBC 2.9, H/H 10.5/31.9, Plt 178, Na 145, K 3.0,
BUN/Cr ___, and lactate 1.1. Blood cultures were done. No
imaging obtained. Patient was given 40mEq IV potassium. Prior to
transfer vitals were 98.1 72 134/69 20 100% RA.

On arrival to the floor, patient endorses the above history. She
has no acute issues or concerns. She denies fevers/chills, night
sweats, headache, vision changes, dizziness/lightheadedness,
weakness/numbnesss, shortness of breath, hemoptysis, chest pain,
palpitations, abdominal pain, nausea/vomiting, hematemesis,
dysuria, hematuria, and new rashes.

REVIEW OF SYSTEMS: A complete 10-point review of systems was
performed and was negative unless otherwise noted in the HPI.

PAST ONCOLOGIC HISTORY:
Briefly, patient initially presented to care in ___ with
hemoptysis. She was subsequently admitted for workup of same and
had a CT of the chest which showed a right infrahilar mass with
complete occlusion of the right middle lobe bronchus and
atelectasis of the right middle lobe with high suspicion for 
lung
cancer; there was evidence of bilateral intrathoracic 
adenopathy.
During her hospital admission, she was seen by the 
interventional
pulmonary team and scheduled for outpatient bronchoscopy.

She underwent bronchoscopy with EBUS under Dr. ___ care on
___. FNA of the right middle lobe mass showed findings
consistent with squamous cell carcinoma; there was biopsy-proven
involvement of the level 4L lymph node; sampling of the 11 L
lymph node showed no malignant cells.

Patient underwent staging PET scan on ___. This showed an 
FDG
avid 3.2 cm mass in the right infrahilar region with evidence of
occlusion of the right middle lobe bronchus and atelectasis of
the right middle lobe. FDG avid subcarinal adenopathy measuring
up to 1.3 cm was noted; additionally enlarged mediastinal and 
and
hilar lymph nodes are also noted.  A 2.2 cm left lower lobe
subpleural FDG avid lesion was also noted. No other distant
metastatic sites of disease were noted.

___: Weekly ___ and radiation started.
 
Past Medical History:
- prior paramedian pontine infarct (___) 
- right-sided lenticulostriate territory infarct ___
- Hypertension as per prior medical records(patient denies)
- Dyslipidemia 
- Colon cancer 2/p right colectomy in ___ with prolonged
stuttering course of adjuvant chemotherapy (diagnosed in setting
of GI bleeding)
- Cholecystectomy for chronic cholecystitis and gallstones in
___
- Diverticulosis
- Hemorrhoids

 
Social History:
___
Family History:
Mother had stroke in her ___ or ___.  Her paternal 
grandfather,
father, and brother all had colon cancer.  Sister had ovarian
cancer and has prostate cancer in her family.

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
===========================
VS: Temp 98.3, BP 110/62, HR 66, RR 18, O2 sat 100% RA.
GENERAL: Pleasant woman, in no distress, lying in bed
comfortably.
HEENT: Anicteric, PERLL, OP clear.
CARDIAC: RRR, normal s1/s2, no m/r/g.
LUNG: Appears in no respiratory distress, clear to auscultation
bilaterally, no crackles, wheezes, or rhonchi.
ABD: Soft, non-tender, non-distended, normal bowel sounds.
EXT: Warm, well perfused, no lower extremity edema, erythema or
tenderness.
NEURO: A&Ox3, good attention and linear thought, CN II-XII
intact. Strength full throughout. Sensation to light touch
intact.
SKIN: No significant rashes.
ACCESS: Right chest wall port without erythema.

DISCHARGE PHYSICAL EXAM:
===========================
VS: 24 HR Data (last updated ___ @ 2327)
    Temp: 98.3 (Tm 98.4), BP: 127/66 (115-131/53-69), HR: 66
(58-73), RR: 18 (___), O2 sat: 97% (97-99%), O2 delivery: Ra   

GENERAL: Pleasant woman, in no distress, lying in bed
comfortably.
HEENT: Anicteric, PERLLA, OP clear.
CARDIAC: RRR, normal s1/s2, no m/r/g.
LUNG: CTAB, no increased work of breathing
ABD: Soft, non-tender, non-distended, normoactive BS
EXT: Warm, well perfused, no lower extremity edema, erythema or
tenderness.
NEURO: A&Ox3, alert and interactive thought, CN II-XII intact.
Strength full throughout. Sensation to light touch intact.
SKIN: No significant rashes.
 
Pertinent Results:
ADMISSION LABS:
==================
___ 05:30PM BLOOD WBC-2.9* RBC-4.03 Hgb-10.5* Hct-31.9* 
MCV-79* MCH-26.1 MCHC-32.9 RDW-25.4* RDWSD-70.9* Plt ___
___ 05:30PM BLOOD Neuts-54.0 ___ Monos-21.1* 
Eos-0.0* Baso-0.3 NRBC-1.0* Im ___ AbsNeut-1.56* 
AbsLymp-0.69* AbsMono-0.61 AbsEos-0.00* AbsBaso-0.01
___ 05:30PM BLOOD Glucose-99 UreaN-7 Creat-0.6 Na-145 
K-3.0* Cl-107 HCO3-27 AnGap-11
___ 05:30PM BLOOD Calcium-9.7 Phos-2.8 Mg-1.8

DISCHARGE LABS:
==================
___ 05:33AM BLOOD WBC-6.0 RBC-3.75* Hgb-9.6* Hct-29.6* 
MCV-79* MCH-25.6* MCHC-32.4 RDW-25.7* RDWSD-71.3* Plt ___
___ 05:33AM BLOOD Glucose-81 UreaN-4* Creat-0.7 Na-141 
K-4.0 Cl-105 HCO3-26 AnGap-10
___ 05:33AM BLOOD Calcium-9.3 Phos-2.2* Mg-1.9

MICROBIO:
==============
___ urine culture: MIXED BACTERIAL FLORA ( >= 3 COLONY 
TYPES), CONSISTENT WITH SKIN AND/OR GENITAL CONTAMINATION.

___ blood culture: final, no growth

C. difficile PCR (Final ___: 
      NEGATIVE. 
           (Reference Range-Negative). 

___ 12:20 pm STOOL     CONSISTENCY: NOT APPLICABLE
      Source: Stool. 

   FECAL CULTURE (Final ___:    NO SALMONELLA OR SHIGELLA 
FOUND. 

   CAMPYLOBACTER CULTURE (Final ___:    NO CAMPYLOBACTER 
FOUND. 

   OVA + PARASITES (Pending): 

   FECAL CULTURE - R/O VIBRIO (Final ___:    NO VIBRIO 
FOUND. 

   FECAL CULTURE - R/O YERSINIA (Final ___:    NO YERSINIA 
FOUND. 

   FECAL CULTURE - R/O E.COLI 0157:H7 (Final ___: 
      No E. coli O157:H7 found. 

   Cryptosporidium/Giardia (DFA) (Final ___: 
      NO CRYPTOSPORIDIUM OR GIARDIA SEEN. 

IMAGING AND STUDIES:
===================
None

 
Brief Hospital Course:
SUMMARY:
=============
Ms. ___ is a ___ woman with stage IIIA squamous cell 
carcinoma of lung undergoing chemoradiation completed on 
___, history of multiple strokes and prior colon cancer s/p 
hemicolectomy who presents with odynophagia x several weeks, 
attributed to radiation esophagitis. 

ACUTE ISSUES:
====================
# Odynophagia/Dysphagia 
#Radiation Esophagitis
Managed with oral liquid lidocaine formulation, which improved 
patient's ability to tolerate PO. Speech and language pathology 
consutled, recommended soft ground diet and thin liquids, which 
was advanced to regular solids. Nutrition consulted as well. If 
symptoms fail to improve with liquid lidocaine and with a time 
course consistent with radiation esophagitis, will need further 
workup as outpatient, such as barium swallow or EGD. Patient was 
started on lansoprazole for any contribution of GERD, should 
continue to assess need for PPI as an outpatient.

# Hypernatremia
Patient with rising Na this admission, up to 149. Likely poor 
oral intake iso radiation esophagitis. Patient received 1L D5W 
with improvement of Na to 141 on day of discharge. She was 
encouraged to maintain liquids throughout the day.

# Severe Malnutrition
Patient with poor PO intake and weight loss. Nutrition was 
consulted, and per their recommendations she received Carnation 
supplements with soy milk with meals, as well as Ensure Clear 
with meals and multivitamins. PO intake was encouraged. SW was 
consulted due to concern about her having adequate resources at 
home (but she denies having issues with resources). ___ assessed 
her and recommended home, where she already has a walker. OOB 
with assistance was encouraged during the admission.

# Vitamin B12 deficiency
B12 was noted to be low this admission, so the patient received 
cyanocobalamin 1000 mcg IM on ___ and was started on PO 
cyanocobalamin daily. MMA was obtained, which was pending at 
time of discharge. CBC was obtained daily.

# Stage IIIA Squamous Cell Lung Carcinoma
Undergoing concurrent chemoradiation. Will follow up with Dr. 
___ as outpatient.

CHRONIC ISSUES:
=================
# Hypokalemia, chronic
Hypokalemia has been chronic. Etiology unclear as patient is not 
on diuretics. Other etiologies include kidney dysfunction such 
as rental tubular acidosis. Reportedly does not take potassium 
as often as necessary at home d/t difficulty swallowing pill. 
Urine
electrolytes notable for >20 K which seems inappropriate in 
setting of hypokalemia. Potassium powder was trialed during the 
admission.

# Diarrhea, stable
Patient reports loose stool since radiation. On admission did 
report blood in stool that is streaky and superficial; patient 
denied tarry stools or frank blood. The most concerning etiology 
would be recurrence of colorectal carcinoma (s/p hemicolectomy),
although more likely causes include diverticulosis flare or 
hemorrhoidal bleeding. Cdiff negative. Hb stable throughout this 
admission.

# Tobacco Abuse: Managed inpatient with nicotine patch. 

TRANSITIONAL ISSUES:
===========================
[] Ensure that patient is eating and drinking without difficulty
[] Continue to assess for presence of blood in stools
[] Should repeat CBC and BMP at next PCP visit to ensure stable 
Hb and Na/K
[] Previously on potassium tablets, but discharged on potassium 
powder given odynophagia, will need to follow up with ability to 
tolerate this.
[] Patient was started on lansoprazole for any contribution of 
GERD, should continue to assess need for PPI as an outpatient.
[] Found to have B12 deficiency anemia during this admission, 
received cyanocobalamin 1000 mcg IM on ___ and was started on 
PO cyanocobalamin daily, which she should continue.
[] Follow up on lab tests that were pending at time of 
discharge: campylobacter stool culture, stool ova + parasites, 
fecal culture r/o Yersinia, methylmalonic acid.
[] Patient was scheduled for outpatient CT chest ___, unable to 
complete as an inpatient, will need to be rescheduled by her 
oncology team

==========================
CODE: Full Code (confirmed)
EMERGENCY CONTACT HCP: ___ (daughter)
___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lidocaine Viscous 2% 15 mL PO TID:PRN throat pain 
2. Ondansetron 8 mg PO Q8H:PRN nausea/vomiting 
3. Prochlorperazine 10 mg PO Q6H:PRN nausea/vomiting 
4. Potassium Chloride 20 mEq PO DAILY 
5. Nicotine Patch 7 mg/day TD DAILY 

 
Discharge Medications:
1.  Cyanocobalamin ___ mcg PO DAILY 
RX *cyanocobalamin (vitamin B-12) 2,500 mcg 1 tablet(s) by mouth 
daily Disp #*30 Tablet Refills:*3 
2.  Lansoprazole Oral Disintegrating Tab 30 mg PO DAILY 
RX *lansoprazole 30 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*3 
3.  Maalox/Diphenhydramine/Lidocaine ___ mL PO QID:PRN throat 
pain  
4.  Multivitamins W/minerals 1 TAB PO DAILY 
RX *multivitamin,tx-minerals  1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*3 
5.  Potassium Chloride (Powder) 20 mEq PO DAILY 
RX *potassium chloride 20 mEq 1 packet(s) by mouth daily Disp 
#*30 Packet Refills:*3 
6.  Lidocaine Viscous 2% 15 mL PO TID:PRN throat pain  
7.  Nicotine Patch 7 mg/day TD DAILY  
8.  Ondansetron 8 mg PO Q8H:PRN nausea/vomiting  
9.  Prochlorperazine 10 mg PO Q6H:PRN nausea/vomiting  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnoses:
Radiation Esophagitis
stage IIIA squamous cell carcinoma of lung 
Severe Malnutrition

Secondary diagnoses:
B12 deficiency
Chronic hypokalemia
Diarrhea
Tobacco abuse

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure caring for you at ___ 
___.

WHY WAS I IN THE HOSPITAL?
- You were having pain with swallowing and difficulty eating 
enough food.
- You were having diarrhea.

WHAT HAPPENED TO ME IN THE HOSPITAL?
- You received medication that decreased throat discomfort.
- You were seen by speech and swallow specialists who made 
recommendations for your diet. You received a soft liquid diet 
initially, which was advanced to regular solid foods as 
tolerated.
- Studies were done on your stool to make sure that your 
diarrhea wasn't caused by an infection.

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?
- Continue to take all your medicines and keep your 
appointments.

We wish you the best!

Sincerely,
Your ___ Team
 
Followup Instructions:
___